US04654343
N-Ethyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide
A mixture of 4.0 g of N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide, 0.85 g of sodium hydride (50% in oil) and 300 ml of dry dimethylformamide, under argon, was stirred for 1 hour then 1.42 ml of ethyl iodide was added. After stirring for 2.5 hours, 0.5 equivalent of sodium hydride and 1.1 equivalent of ethyl iodide were added. This mixture was stirred overnight, poured into 1 liter of water and extracted with five 100 ml portions of dichloromethane. The extracts were combined, dried and evaporated in vacuo, giving 3.6 g of the desired compound as tan crystals, mp 105°-110° C.

reactant | N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 4.0 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)NC(C)=O | C12H10ClN3O
reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | ethyl iodide | 1.42 ml | C(C)I | C2H5I
reactant | sodium hydride | 0.5 equivalent | [H-].[Na+]
reactant | ethyl iodide | 1.1 equivalent | C(C)I | C2H5I
solvent | water | 1 liter | O | H2O
product | N-Ethyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 3.6 g | C(C)N(C(C)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C14H14ClN3O
